### PR TITLE
improved HomotopyGroup.v and added Pi1S1

### PR DESCRIPTION
**Pull request by Alizter**
I have rewritten HomotopyGroup.v and added some lemmas such as the distribution over products. I have added PiS1.v in /Homotopy/ too. In order to do this I have added a few lemmas to Pointed.v.

I am thinking about possibly breaking up Pointed.v into smaller files which will easier to navigate and work with. (They will still be indexed by Pointed.v).

Once the Torus PR is pulled, I will also add a computation of Pi1 of the Torus later. I currently also have a half finished file for PinSn lying around which I may finish soon.

### CODE REVIEW

**Comment by Alizter** [comment]
@spitters @mikeshulman Looks good?

**Comment by mikeshulman** [comment]
Haven't had a chance to look at it yet, will hopefully do this week.

File: theories/Homotopy/HomotopyGroup.v [hunk 1]
```diff
@@ -4,100 +4,136 @@ Require Import HIT.Truncations.
...
+  intros x y; strip_truncations; cbn.
+  apply ap, eckmann_hilton.
+Defined.
+
+Global Instance pi_is_AbGroup n X : AbGroup (Pi n.+2 X).
+Proof.
+  serapply Build_AbGroup.
+Defined.
+
+(* TODO:
```
Comment (andreaslyn) [inline theories/Homotopy/HomotopyGroup.v]: Did you forget to move this to Pointed.v?

File: theories/Homotopy/Pi1S1.v [hunk 2]
```diff
@@ -0,0 +1,41 @@
...
+    unfold Pi; cbn.
+    equiv_via (base = base).
+    1: symmetry; exact (equiv_tr 0 (loops (S1, base))).
+    exact equiv_loopS1_int.
+  Defined.
+
+  Theorem Pi1S1' : Pi 1 (psphere 1) <~> Int.
+  Proof.
+    unfold psphere.
+    assert (X : (Sphere 1, North) = (S1, base)).
```
Comment (andreaslyn) [inline theories/Homotopy/Pi1S1.v]: Maybe this could be a separate lemma somewhere?

File: theories/Pointed.v [hunk 3]
```diff
@@ -323,11 +375,23 @@ Proof.
   apply moveR_equiv_V; symmetry; apply point_eq.
 Defined.
 
+(* Notation "f ^-1" := (pequiv_inverse f). *)
```
Comment (andreaslyn) [inline theories/Pointed.v]: Maybe we should remove this comment.

File: theories/Homotopy/HomotopyGroup.v (hunk 1 above)
Comment (Alizter) [reply theories/Homotopy/HomotopyGroup.v]: No, it needs to be here for now. I have another PR coming soon where it is moved.

File: theories/Homotopy/Pi1S1.v (hunk 2 above)
Comment (Alizter) [reply theories/Homotopy/Pi1S1.v]: I would argue that this is really the correct result, and S1 is a lemma. But the loop space of the circle was proven, not the loop space of the suspension of 2. I am not sure it should go elsewhere.

File: theories/Pointed.v (hunk 3 above)
Comment (Alizter) [reply theories/Pointed.v]: I have a PR coming up for pointed in which this will be included so it is harmless to leave for now.

File: theories/Homotopy/Pi1S1.v (hunk 2 above)
Comment (andreaslyn) [reply theories/Homotopy/Pi1S1.v]: Sorry, I mean the `assert` could be a separate lemma.

Comment (Alizter) [reply theories/Homotopy/Pi1S1.v]: OK fair enough. I think it would be fine in Spheres.v

Comment (andreaslyn) [reply theories/Homotopy/Pi1S1.v]: Stated as an equivalence `(Sphere 1, North) <~> (S1, base)`. I guess that this results is more related to HIT/Sphere.v.

Comment (Alizter) [reply theories/Homotopy/Pi1S1.v]: Once it is a pointed equivalence it is only path_ptype away from being a path anyway.

Comment (andreaslyn) [reply theories/Homotopy/Pi1S1.v]: Yes, a pointed equivalence `(Sphere 1, North) <~>* (S1, base)`, of course.
